US07468378B2
a) Preparation of Intermediate N-(4-Fluorobenzyl)formamide
A solution of 4-fluorobenzylamine (20 g, 160 mmol) in ethyl formate was heated at reflux for 4 h. After cooling, the solvent was evaporated to afford a yellow solid. Trituration with cold EtOAc afforded the title compound as a white solid (17.46 g, 71%). 1H NMR (CDCl3): □ 8.24 (s, 1H), 7.25 (m, 2H), 7.00 (m, 2H), 5.91 (br s, 1H), 4.42 (d, 2H).

reactant | 4-fluorobenzylamine | 160 mmol, 20 g | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | ethyl formate | C(=O)OCC | C3H6O2
product | N-(4-Fluorobenzyl)formamide | 17.46 g, 71% | FC1=CC=C(CNC=O)C=C1 | C8H8FNO
